US04105776
Ethylisocyanate (0.45 ml) is added to a solution of 1-(3-mercaptopropanoyl)-L-proline (1 g) in a mixture of N sodium hydroxide (5 ml) and pyridine (5 ml). The solution is heated at 40° for four hours and concentrated in vacuo. The residue is distributed between 0.1 N hydrochloric acid and ethyl acetate. The organic layer is washed with water, dried over magnesium sulfate and concentrated to dryness to yield 1-[3-[[(ethylamino)carbonyl]thio]propanoyl]-L-proline. The dicyclohexylammonium salt is prepared by adding dicyclohexylamine to a solution of the free acid in ethyl acetate, m.p. 150°-152°.

reactant | Ethylisocyanate | 0.45 ml | C(C)N=C=O | C3H5NO
reactant | 1-(3-mercaptopropanoyl)-L-proline | 1 g | SCCC(=O)N1[C@H](C(=O)O)CCC1 | C8H13NO3S
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-[3-[[(ethylamino)carbonyl]thio]propanoyl]-L-proline | C(C)NC(=O)SCCC(=O)N1[C@H](C(=O)O)CCC1 | C11H18N2O4S
